US08536197B2
(227a) Benzyl 3-[(tert-butoxycarbonyl)amino]azetidine-1-carboxylate
Benzyl chloroformate (0.40 mL, 2.79 mmol) and triethylamine (0.65 mL, 4.64 mmol) were added to a solution of 3-[(tert-butoxycarbonyl)amino]azetidine (400 mg, 2.32 mmol) in dichloromethane (23 mL) at room temperature, followed by stirring for 40 minutes. The reaction solution was concentrated under reduced pressure, and then the resulting residue was purified by silica gel column chromatography (elution solvent: hexane/ethyl acetate=5/1) to obtain 481 mg of the title compound as a white solid (68%).

reactant | Benzyl chloroformate | 2.79 mmol, 0.40 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | triethylamine | 4.64 mmol, 0.65 mL | C(C)N(CC)CC | C6H15N
reactant | 3-[(tert-butoxycarbonyl)amino]azetidine | 2.32 mmol, 400 mg | C(C)(C)(C)OC(=O)NC1CNC1 | C8H16N2O2
solvent | dichloromethane | 23 mL | ClCCl | CH2Cl2
product | Benzyl 3-[(tert-butoxycarbonyl)amino]azetidine-1-carboxylate | 481 mg, 68% | C(C)(C)(C)OC(=O)NC1CN(C1)C(=O)OCC1=CC=CC=C1 | C16H22N2O4
